US08034953B2
Step 1. 4-Amino-N-(2,5-dichlorophenyl)-1,2,5-oxadiazole-3-carboxamide
This compound was prepared according to the procedure of Example 45, Step 1, using 4-amino-1,2,5-oxadiazole-3-carboxylic acid and 2,5-dichloroaniline as the starting materials. LCMS for C9H7Cl2N4O2 (M+H)+: m/z=273.0.

reactant | 4-amino-1,2,5-oxadiazole-3-carboxylic acid | NC=1C(=NON1)C(=O)O | C3H3N3O3
reactant | 2,5-dichloroaniline | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
product | 4-Amino-N-(2,5-dichlorophenyl)-1,2,5-oxadiazole-3-carboxamide | NC=1C(=NON1)C(=O)NC1=C(C=CC(=C1)Cl)Cl | C9H6Cl2N4O2
